US04028404
α-Bromo-m-tolyl cyclopropyl ketone
A stirred suspension of cyclopropyl m-tolyl ketone (16 g) and N-bromosuccinimide (17.8 g) in carbon tetrachloride (100 ml) was irradiated and heated under reflux by means of a tungsten lamp for 2 hours and cooled. The solid was filtered off and the filtrate evaporated. The residual oil was distilled under reduced pressure and the fraction distilling at 115°-130°/0.1 mm was collected.

reactant | cyclopropyl m-tolyl ketone | 16 g | C1(=CC(=CC=C1)C(=O)C1CC1)C | C11H12O
reactant | N-bromosuccinimide | 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-Bromo-m-tolyl cyclopropyl ketone | C1(CC1)C(=O)C=1C=C(C=CC1)CBr | C11H11BrO
